US07994203B2
Step 2: 3-Ethyl-5-hydroxy-1H-pyrazole-4-carboxylic acid ethyl ester:
To diethyl propionylmalonate (3.63 g, 16.8 mmol) in glacial acetic acid (8 ml) at RT, is added hydrazine hydrate (55% hydrazine, 1.4 ml, 25.2 mmol). The reaction mixture is heated at 100° C. for 2 hrs and allowed to cool to ambient temperature whereupon crystallization occurs. The mixture is diluted with diethyl ether (approx. 25 ml) and stirred for 20 minutes and filtered to obtain the title compound as a white solid. This is washed with diethyl ether and dried in vacuo. A second crop of product is obtained by cooling the filtrate liquor, the precipitated solid is washed with diethyl ether and dried in vacuo. 1H NMR (400 MHz, DMSO-d6) δ 12.0 (1H, br s), 9.8 (1H, br s), 4.16 (2H, q, J 7.1), 2.73 (2H, q, J 7.5), 1.24 (3H, t, J 7.1), 1.14 (3H, t, J 7.5).

reactant | diethyl propionylmalonate | 16.8 mmol, 3.63 g | C(CC)(=O)C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | hydrazine hydrate | 25.2 mmol, 1.4 ml | O.NN
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | approx. 25 ml | C(C)OCC | C4H10O
product | 3-Ethyl-5-hydroxy-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NNC1O)CC | C8H12N2O3
